US04362728
A mixture of 4-amino-2-(2-phthalimidoethylthio)pyrimidine (0.8 g.), 2,2,2-trifluoroethylisothiocyanate (0.56 g.) and dimethyl formamide (2 ml.) was stirred at 70° for 72 hours. The mixture was cooled, diluted with acetonitrile and filtered to give 4-[3-(2,2,2-trifluoroethyl)thioureido]-2-(2-phthalimidoethylthio)pyrimidine (0.7 g.), m.p. 238°-241°.

reactant | 4-amino-2-(2-phthalimidoethylthio)pyrimidine | 0.8 g | NC1=NC(=NC=C1)SCCN1C(C=2C(C1=O)=CC=CC2)=O | C14H12N4O2S
reactant | 2,2,2-trifluoroethylisothiocyanate | 0.56 g | FC(CN=C=S)(F)F | C3H2F3NS
reactant | dimethyl formamide | 2 ml | CN(C=O)C | C3H7NO
solvent | acetonitrile | C(C)#N | C2H3N
product | 4-[3-(2,2,2-trifluoroethyl)thioureido]-2-(2-phthalimidoethylthio)pyrimidine | 0.7 g | FC(CNC(NC1=NC(=NC=C1)SCCN1C(C=2C(C1=O)=CC=CC2)=O)=S)(F)F | C17H14F3N5O2S2
